US08008307B2
Step d: 7-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-2-(1-naphthyl)-3H-imidazo[4,5-b]pyridine
A mixture of 1-naphthalenecarboxaldehyde (115 mg, 0.000738 mol), 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclo pentyl]oxy}pyridine-2,3-diamine (115.1 mg, 0.0002460 mol) and sodium metabisulfite (0.140 g, 0.000738 mol) in acetonitrile (2.00 mL) was subject to microwave irradiation at 180° C. for 25 mins. The mixture was filtered and the filtrate was concentrated. The residue was purified by preparative plate chromatography (25% EtOAc/hexanes) to afford the title compound (0.101 g, 68%) as a white solid.

reactant | 1-naphthalenecarboxaldehyde | 0.000738 mol, 115 mg | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclo pentyl]oxy}pyridine-2,3-diamine | 0.0002460 mol, 115.1 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=C(C(=NC=C1)N)N | C23H45N3O3Si2
reactant | sodium metabisulfite | 0.000738 mol, 0.140 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 2.00 mL | C(C)#N | C2H3N
product | 7-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-2-(1-naphthyl)-3H-imidazo[4,5-b]pyridine | 0.101 g, 68% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=C2C(=NC=C1)NC(=N2)C2=CC=CC1=CC=CC=C21 | C34H49N3O3Si2
